US09403849B2
a) 1,2-Bis(anthracen-9-yl)benzene
Procedure analogous to Example 3a. Instead of 149.0 ml (1.2 mol) of 1,2-dibromobenzene and 98.0 g (308 mmol) of 9,10-anthracenediboronic acid ethylene glycol ester, 12.1 ml (100 mmol) of dibromobenzene and 68.0 g (306 mmol) of 9-anthraceneboronic acid are used. After cooling, the solid is filtered off with suction, washed three times with 100 ml of ethanol each time and then washed twice by stirring with 1000 ml of refluxing acetic acid each time (1 h) and each time filtered off with suction after cooling to 90° C. The mother liquor is discarded in each case. The solid is finally washed once with boiling ethanol. Yield: 33.0 g (76 mmol), 76.6% of theory; purity: 98% according to 1H-NMR.

reactant | 1,2-dibromobenzene | 1.2 mol, 149.0 ml | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | dibromobenzene | 100 mmol, 12.1 ml | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | 9-anthraceneboronic acid | 306 mmol, 68.0 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)B(O)O | C14H11BO2
product | 1,2-Bis(anthracen-9-yl)benzene | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C1=C(C=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C34H22
